US05776656
As in Synthesis Example 1 but using 1.73 grams of 1,2-dicyano-4-nitrobenzene and 4.9 grams of 2-t-butylbenzenethiol, there was obtained 1.46 grams of 1,2-dicyano-3-(2-t-butylphenylthio)benzene (yield of 50%). Next, as in Synthesis Example 1 but using 1.46 grams of this benzene compound and 0.42 gram of BBr3 l there was obtained 0.73 gram of the end product (yield 45%, mp 160°-161° C.).

reactant | 1,2-dicyano-4-nitrobenzene | 1.73 grams | C(#N)C1=C(C=C(C=C1)[N+](=O)[O-])C#N | C8H3N3O2
reactant | 2-t-butylbenzenethiol | 4.9 grams | C(C)(C)(C)C1=C(C=CC=C1)S | C10H14S
product | 1,2-dicyano-3-(2-t-butylphenylthio)benzene | 1.46 grams, yield of 50% | C(#N)C1=C(C(=CC=C1)SC1=C(C=CC=C1)C(C)(C)C)C#N | C18H16N2S
